US07288537B2
A solution of azetidin-3-yl-(4-chloro-phenyl)-methanone hydrochloride (50 g, 210 mmol) in dioxan:water 1:1 (800 ml) is added powdered sodium bicarbonate (61.7 g, 730 mmol) and the reaction mixture cooled to 10° C. Di-tbutyl-dicarbonate (52.6 g, 240 mmol) is added portion wise and the reaction mixture allowed to warm to room temperature with stirring for 1.5 hours. The reaction mixture is poured into water (1500 ml) and the resulting white precipitate filtered off and dried under vacuum to afford 3-(4-Chloro-benzoyl)-azetidine-1-carboxylic acid tert-butyl ester. 1H NMR 400 MHz, CDCl3, δ 1.45 (9H), 4.10 (1H), 4.20 (4H), 7.47 (2H), 7.80 (2H)

reactant | azetidin-3-yl-(4-chloro-phenyl)-methanone hydrochloride | 210 mmol, 50 g | Cl.N1CC(C1)C(=O)C1=CC=C(C=C1)Cl
reactant | sodium bicarbonate | 730 mmol, 61.7 g | C([O-])(O)=O.[Na+]
reactant | water | 1500 ml | O | H2O
solvent | dioxan water | 800 ml | O1CCOCC1.O
product | 3-(4-Chloro-benzoyl)-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)C(C1=CC=C(C=C1)Cl)=O | C15H18ClNO3
